US07115645B2
6-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]hexanamide
18 mg of potassium carbonate and 40 μl of 30% hydrogen peroxide solution were added to a solution of 50 mg of 6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanonitrile in 1 ml of methanol, and it was allowed to stir for 24 hours. Then, ice-cold aqueous sodium thiosulfate solution was stirred in and extracted three times with ethyl acetate. After drying on sodium sulfate, it was concentrated by evaporation in a vacuum, and the residue was chromatographed on silica gel.

reactant | potassium carbonate | 18 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 40 μl | OO | H2O2
reactant | 6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanonitrile | 50 mg | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCCCCC#N)C2=CC=CC=C2 | C25H23N3O
solvent | methanol | 1 ml | CO | CH4O
product | 6-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]hexanamide | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCCCCC(=O)N)C2=CC=CC=C2 | C25H25N3O2
